US09260363B2
Synthesis of 10,10-dimethyl-12-(6-(naphthalen-1-yl)pyren-1-yl)-10H-indeno[1,2-b]triphenylene
A mixture of 7 g (17.2 mmol) of 1-bromo-6-(naphthalen-1-yl)pyrene, 8.1 g (17.2 mmol) of 2-(10,10-dimethyl-10H-indeno[1,2-b]triphenylen-12-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane, 0.2 g (0.172 mmol) of Tetrakis(triphenylphosphine)Palladium, 13 ml of 2M Na2CO3, 30 ml of EtOH and 100 ml toluene was degassed and placed under nitrogen, and then heated at 90° C. for 24 h. After the reaction finish, the mixture was allowed to cool to room temperature. Than 500 ml MeOH was added, while stirring and the precipitated product was filtered off with suction. To give 5.4 g (yield 47%) of yellow product which was recrystallized from toluene. MS(m/z,FAB+): 670.1; 1H NMR (CDCl3, 400 MHz): chemical shift(ppm) 9.11 (s, 1H), 8.89 (d, J=8.00 Hz, 1H), 8.82 (d, J=8.00 Hz, 1H), 8.78 (s, 1H), 8.72 (d, J=8.00 Hz, 2H), 8.38 (d, J=9.20 Hz, 1H), 8.30˜8.26 (m, 3H), 8.19˜8.05 (m, 7H), 8.02˜7.98 (m, 2H), 7.83˜7.82 (m, 2H), 7.78˜7.68 (m, 5H), 7.61˜7.59 (m, 2H), 1.79 (s, 6H).

reactant | 1-bromo-6-(naphthalen-1-yl)pyrene | 17.2 mmol, 7 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=CC4=CC=CC=C34 | C26H15Br
reactant | 2-(10,10-dimethyl-10H-indeno[1,2-b]triphenylen-12-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 17.2 mmol, 8.1 g | CC1(C=C(C=C2C=C3C(C=C4C5=CC=CC=C5C5=CC=CC=C5C4=C3)=C12)B1OC(C(O1)(C)C)(C)C)C | C33H31BO2
reactant | Na2CO3 | 2M, 13 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 30 ml | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)Palladium | 0.172 mmol, 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 10,10-dimethyl-12-(6-(naphthalen-1-yl)pyren-1-yl)-10H-indeno[1,2-b]triphenylene | 5.4 g, yield 47% | CC1(C=C(C=C2C=C3C(C=C4C5=CC=CC=C5C5=CC=CC=C5C4=C3)=C12)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=CC4=CC=CC=C34)C | C53H34
